US05747604
Preparation of 4-(4'-Allyloxyphenyl)phenol
In a 1 L, three-necked, round bottom flask 4,4'-biphenol (40 g, 215 mmol) and potassium hydroxide (24 g, 430 mmol) were dissolved in 600 mL of absolute ethanol. The solution was warmed and allyl bromide (26 g, 215 mmol) was added. The reaction mixture was heated to reflux overnight, after which additional allyl bromide (13 g, 157 mmol) was added. The reaction mixture was refluxed for an additional 24 hours. The reaction mixture was cooled to room temperature and the solids were filtered. The filtrate was poured into distilled water (4 L) and then acidified with concentrated aqueous HCl. The solid product was filtered off and washed with a large amount of water and then dried. The product was purified by repeated recrystallization from ethanol. Product characterization included: m.p. 168°-170° C., 1H (200 MHz, CDCl3): 7.05 (m, 4H), 6.8 (m, 4H), 6.1 (m, 1H), 4.4 (m, 2H).

reactant | 4,4'-biphenol | 215 mmol, 40 g | C1(=CC=C(C=C1)C1=CC=C(C=C1)O)O | C12H10O2
reactant | potassium hydroxide | 430 mmol, 24 g | [OH-].[K+]
reactant | allyl bromide | 215 mmol, 26 g | C(C=C)Br | C3H5Br
reactant | allyl bromide | 157 mmol, 13 g | C(C=C)Br | C3H5Br
solvent | ethanol | 600 mL | C(C)O | C2H6O
product | 4-(4'-Allyloxyphenyl)phenol | C(C=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C15H14O2
